US07893056B2
A solution of [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.1294 g, 0.232 mmol) in 4:1 HOAc-water (5 mL) was heated at 30° C. and stirred overnight. The solution was cooled to room temperature, concentrated in vacuo, and purified directly by Gilson RPLC to give [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (69.1 mg, 63% yield) as a yellow solid. LCMS: (M+H)+: 473.2.

reactant | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.232 mmol, 0.1294 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CC([C@@H](C1)O)(C)C | C25H38ClFN6O5
solvent | HOAc water | 5 mL | CC(=O)O.O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(4S)-4-hydroxy-3,3-dimethyl-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 69.1 mg, 63% yield | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1CC([C@@H](C1)O)(C)C | C20H30ClFN6O4
